US06828460B2
(±)-4-[3-Hydroxy-3-(hydroxymethyl)cyclohexyl]-1,3-benzenediol
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]-1-(hydroxymethyl)cyclohexanol (29 mg), methanol (2 ml) and acidic ion exchange resin (300 mg) were heated under reflux for 3 hr. The reaction mixture was filtered and the resin was washed with methanol. The combined filtrate and washings were evaporated in vacuo and the crude residue was purified by preparative HPLC to furnish the title compound as a cream solid (5 mg, 24%). δH(CD3OD) 1.20-2.00 (8H, m), 2.89 (1H, tt), 3.61 (1H, d), 3.69 (1H, d), 6.20-6.26 (2H, m), 6.90 (1H, d); m/z (ES−) 237 (M−H)−.

reactant | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]-1-(hydroxymethyl)cyclohexanol | 29 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)(O)CO | C17H26O6
solvent | methanol | 2 ml | CO | CH4O
product | (±)-4-[3-Hydroxy-3-(hydroxymethyl)cyclohexyl]-1,3-benzenediol | 5 mg, 24% | OC1(CC(CCC1)C1=C(C=C(C=C1)O)O)CO | C13H18O4
